US06897231B2
C. ({3-[3-(4-Methoxyphenyl)(1H-indazol-5-yl)](1H-1,2,4-triazol-5-yl)}methyl)dimethylamine
({3-[3-(4-methoxyphenyl)-1-perhydro-2H-pyran-2-yl(1H-indazol-5-yl)](1H-1,2,4-triazol-5-yl)}methyl)dimethylamine (0.57 g, 1.32 mmol) was suspended in 10 mL of 4 M in HCl dioxane solution. Toluene (10 mL) was added and the suspension was stirred at room temperature for 18 h. The reaction was quenched with saturated aqueous NaHCO3 solution and then concentrated under reduced pressure. The residue was taken up in DMSO and filtered. Purification by preparative HPLC (15-80% acetonitrile in water) furnished 92 mg (20% yield) of the title compound. 1H NMR (DMSOd6) δ 14.0 (s, 1H), 13.2 (s, 1H), 8.6 (s, 1H), 8.05 (dd, 1H), 7.95 (m, 2H), 7.65 (d, 1H), 7.14 (m, 2H), 3.8 (s, 3H), 3.6 (s, 2H), 2.2 (s, 6H); ES-MS (m/z) 349 [M+H]+.

reactant | ({3-[3-(4-methoxyphenyl)-1-perhydro-2H-pyran-2-yl(1H-indazol-5-yl)](1H-1,2,4-triazol-5-yl)}methyl)dimethylamine | 1.32 mmol, 0.57 g | COC1=CC=C(C=C1)C1C(OCCC1)N1N=CC2=CC(=CC=C12)C1=NNC(=N1)CN(C)C | C24H28N6O2
reactant | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | HCl dioxane | O1CCOCC1.Cl
product | ({3-[3-(4-Methoxyphenyl)(1H-indazol-5-yl)](1H-1,2,4-triazol-5-yl)}methyl)dimethylamine | 92 mg, 20% yield | COC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C1=NNC(=N1)CN(C)C | C19H20N6O
